US07419984B2
To a mixture of 2-bromo-4-chloro-1-(2,2,2-trifluoro-ethoxy)-benzene (3.0 g, 10.4 mmol) and tetrahydrofuran (60 ml), cooled to −70° C., was added a solution of isopropylmagnesium chloride in tetrahydrofuran (2 M, 5.7 ml). After warming to 0° C., the mixture was stirred for 1 hour. After cooling to −70° C., the mixture was treated with trimethylborate (1.2 g, 11.4 mmol). After stirring at room temperature for 12 hours, the mixture was treated with hydrochloric acid (2 M, 20 ml). After stirring for 40 minutes, the mixture was extracted with ethyl acetate (2×50 ml). The combined extracts were dried over magnesium sulfate and concentrated under reduced pressure. The residue was triturated with hexane (50 ml). Filtration and drying of the solid under reduced pressure gave 5-chloro-2-(2,2,2-trifluoro-ethoxy)-phenylboronic acid (1.6 g, 61% yield). 1H NMR (acetone-d6) δ 4.86 (q, 2H, J=8.5 Hz, CH2), 7.12 (d, 2H, J=4.6 Hz, OH), 7.20 (d, 1H, J=8.8 Hz, Ar), 7.49 (dd, 1H, J=8.8 Hz, J=2.8 Hz, Ar), 7.76 (d, 1H, J—2.7 Hz, Ar).

reactant | 2-bromo-4-chloro-1-(2,2,2-trifluoro-ethoxy)-benzene | 10.4 mmol, 3.0 g | BrC1=C(C=CC(=C1)Cl)OCC(F)(F)F | C8H5BrClF3O
reactant | isopropylmagnesium chloride | C(C)(C)[Mg]Cl
reactant | trimethylborate | 11.4 mmol, 1.2 g | COB(OC)OC | C3H9BO3
reactant | hydrochloric acid | 2 M, 20 ml | Cl | ClH
solvent | tetrahydrofuran | 2 M, 5.7 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 5-chloro-2-(2,2,2-trifluoro-ethoxy)-phenylboronic acid | 1.6 g, 61% yield | ClC=1C=CC(=C(C1)B(O)O)OCC(F)(F)F | C8H7BClF3O3
